US07943654B2
5-Tert-butyl 1-ethyl 3-amino-1H-thieno[2,3-c]pyrazole-1,5-dicarboxylate
A solution of ethyl chlorocarbonate (4.90 mL, 51.7 mmol) in tetrahydrofuran (THF, 60 mL) was slowly added to a mixture of tert-butyl 3-amino-1H-thieno[2,3-c]pyrazole-5-carboxylate (12.0 g, 50.2 mmol) and diisopropylethylamine (DIEA, 51.5 mL, 301 mmol) in THF (300 mL), maintaining the temperature between −5 and −10° C. The reaction was kept at the same temperature for 5 minutes then allowed to reach room temperature. The obtained mixture was evaporated to dryness under vacuum and the residue extracted with ethyl acetate (AcOEt) and water. The organic layer was separated, dried over sodium sulfate and evaporated to dryness. The resulting raw material was triturated with diethyl ether to give 13.7 g of the title compound as a white solid.

reactant | ethyl chlorocarbonate | 51.7 mmol, 4.90 mL | C(OCC)(=O)Cl | C3H5ClO2
reactant | tert-butyl 3-amino-1H-thieno[2,3-c]pyrazole-5-carboxylate | 50.2 mmol, 12.0 g | NC=1C2=C(NN1)SC(=C2)C(=O)OC(C)(C)C | C10H13N3O2S
reactant | diisopropylethylamine | 301 mmol, 51.5 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
solvent | THF | 300 mL | O1CCCC1 | C4H8O
product | 5-Tert-butyl 1-ethyl 3-amino-1H-thieno[2,3-c]pyrazole-1,5-dicarboxylate | 13.7 g | NC=1C2=C(N(N1)C(=O)OCC)SC(=C2)C(=O)OC(C)(C)C | C13H17N3O4S
